US08168815B2
Step 6: [(3-bromo-7-cyano-2-naphthyl)(difluoro)methyl]phosphonic acid (7a)
A solution of diethyl[(3-bromo-7-cyano-2-naphthyl)(difluoro)methyl]phosphonate (2.2 g) in dichloromethane (5 mL) and TMSBr (7 mL) was stirred overnight and concentrated. The residue was co-evaporated with dichloromethane (2×), ethanol/water (2×) and then dissolved in 20 mL of methanol. Ammonia (30%) was then added with vigorous stirring and the mixture was concentrated and co-evaporated with methanol (3×). The solid residue was washed with ether to give the desired product as a white powder. MS (−ESI): m/z 360.0 and 361.9 (M−1)−.

reactant | diethyl[(3-bromo-7-cyano-2-naphthyl)(difluoro)methyl]phosphonate | 2.2 g | C(C)OP(OCC)(=O)C(F)(F)C1=CC2=CC(=CC=C2C=C1Br)C#N | C16H15BrF2NO3P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | TMSBr | 7 mL | C[Si](C)(C)Br | C3H9BrSi
product | [(3-bromo-7-cyano-2-naphthyl)(difluoro)methyl]phosphonic acid | BrC=1C(=CC2=CC(=CC=C2C1)C#N)C(F)(F)P(O)(O)=O | C12H7BrF2NO3P
